US05880147
N-[2-t-Butyl-5-(hydroxymethyl)phenyl]-3-(2-trifluoromethylphenyl)octanamide
Following a procedure similar to that described in Preparation 9, but using N-[2-t-butyl-5-(t-butyldimethylsilyloxymethyl)phenyl]-3-(2-trifluoromethyl-phenyl)octanamide (prepared as described in Preparation 18) as a starting material, the title compound was obtained as crystals, melting at 147°-147.5° C. (from ethyl acetate-hexane).

reactant | N-[2-t-butyl-5-(t-butyldimethylsilyloxymethyl)phenyl]-3-(2-trifluoromethyl-phenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)CO[Si](C)(C)C(C)(C)C)NC(CC(CCCCC)C1=C(C=CC=C1)C(F)(F)F)=O | C32H48F3NO2Si
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-[2-t-Butyl-5-(hydroxymethyl)phenyl]-3-(2-trifluoromethylphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)CO)NC(CC(CCCCC)C1=C(C=CC=C1)C(F)(F)F)=O | C26H34F3NO2
